US08383624B2
2-chloro-7-iodo-5H-pyrrolo[2,3-b]pyrazine
A 1 M solution of iodine monochloride in dichloromethane (9.84 mL, 9.84 mmol) was added dropwise to an ice-cold solution of 2-chloro-5H-pyrrolo[2,3-b]pyrazine (6.75 g, 11.07 mmol) in anhydrous pyridine (12 mL). The reaction mixture was stirred at 0° C. for 60 minutes, then concentrated. The residue was partitioned between ethyl acetate and brine. The organic phase was washed with brine and concentrated. The crude product was stirred with 15 mL of dichloromethane. The yellow solid material was collected by filtration, washed with dichloromethane and dried to give 2.86 g of the title product. Yield: 66%. MS (DCI+) m/z 280 (M+H)+.

reactant | iodine monochloride | ICl | ClI
reactant | dichloromethane | 9.84 mmol, 9.84 mL | ClCCl | CH2Cl2
reactant | 2-chloro-5H-pyrrolo[2,3-b]pyrazine | 11.07 mmol, 6.75 g | ClC=1N=C2C(=NC1)NC=C2 | C6H4ClN3
solvent | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
product | 2-chloro-7-iodo-5H-pyrrolo[2,3-b]pyrazine | 2.86 g, Yield: 66% | ClC=1N=C2C(=NC1)NC=C2I | C6H3ClIN3
